US07314935B2
C. (7R,8R,9R)-7,8-Dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridine
The N-acetyl protecting group is detached from the compound (7R,8R,9R)-10-acetyl-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine by heating with potassium carbonate in 2-aminoethanol (temp. 70-100° C.). After extractive workup and crystallization, the title compound is obtained as a colourless solid of m.p. 206-209° C.

reactant | (7R,8R,9R)-10-acetyl-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3C)C)O)O)C3=CC=CC=C3 | C20H21N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-aminoethanol | NCCO | C2H7NO
product | (7R,8R,9R)-7,8-Dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridine | O[C@H]1[C@@H]([C@H](NC=2C=3N(C=CC12)C(=C(N3)C)C)C3=CC=CC=C3)O | C18H19N3O2
